US08957062B2
Step B: 4-((1R,2S)-2-{2-[4-(2-azetidin-1-yl-2-oxoethyl)-3-fluorophenoxy]ethyl}cyclopropyl)piperidine
To a solution of benzyl 4-((1R,2S)-2-{2-[4-(2-azetidin-1-yl-2-oxoethyl)-3-fluorophenoxy]ethyl}cyclopropyl)piperidine-1-carboxylate (590 mg, 1.32 mmol) in 8 mL anhydrous methanol at ambient temperature was added palladium on carbon (80.0 mg, 0.676 mmol), 10% by weight. The solution was stirred under hydrogen for 4 hours and filtered. The crude product was concentrated to the title compound as white solid and used for the next step. LC/MS 361.3 (M+H)+.

reactant | benzyl 4-((1R,2S)-2-{2-[4-(2-azetidin-1-yl-2-oxoethyl)-3-fluorophenoxy]ethyl}cyclopropyl)piperidine-1-carboxylate | 1.32 mmol, 590 mg | N1(CCC1)C(CC1=C(C=C(OCC[C@H]2[C@H](C2)C2CCN(CC2)C(=O)OCC2=CC=CC=C2)C=C1)F)=O | C29H35FN2O4
solvent | methanol | 8 mL | CO | CH4O
catalyst | palladium on carbon | 0.676 mmol, 80.0 mg | [Pd] | Pd
product | 4-((1R,2S)-2-{2-[4-(2-azetidin-1-yl-2-oxoethyl)-3-fluorophenoxy]ethyl}cyclopropyl)piperidine | N1(CCC1)C(CC1=C(C=C(OCC[C@H]2[C@H](C2)C2CCNCC2)C=C1)F)=O | C21H29FN2O2
